US05334576
Preparation of 6-methyl-5-(N-methylmethanesulfonylamino)-pyridine-2,3-dicarboxylic acid, diethyl ester
A solution of 1.33 g of 6-methyl-5-(N-methylamino)pyridine-2,3-dicarboxylic acid, diethyl ester, in 30 mL dry tetrahydrofuran is cooled under nitrogen with stirring to -65° C., and treated dropwise with 2.6 mL of 2.3M n-butyllithium (hexane solution). When the addition is complete, 0.4 mL of methanesulfonyl chloride is added, and the reaction is allowed to warm to room temperature over a 30 minute period. The reaction is quenched with 10 mL of water and concentrated in vacuo. The residue is partitioned between methylene chloride and water, and the organic layer is dried and concentrated in vacuo. This residue is chromatographed on silica gel using ether to afford the desired product, mp 90°-93° C.

reactant | 6-methyl-5-(N-methylamino)pyridine-2,3-dicarboxylic acid, diethyl ester | 1.33 g | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)NC | C13H18N2O4
reactant | n-butyllithium | 2.3M, 2.6 mL | C(CCC)[Li]
reactant | methanesulfonyl chloride | 0.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-methyl-5-(N-methylmethanesulfonylamino)-pyridine-2,3-dicarboxylic acid, diethyl ester | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)N(C)S(=O)(=O)C | C14H20N2O6S
